US04886835
The procedure is as in Example 2 for the preparation of diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (13.7 g), a 1.6M solution (33.1 cc) of n-butyllithium in hexane and cyclohexyl (phenylthio)acetate (12 g) in tetrahydrofuran (150 cc). After purification by chromatography on a silica column with a mixture of cyclohexane and ethyl acetae (80:20 by volume) as eluent, 1-ethyl 6-cyclohexyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate (9.7 g) is obtained, and is used in the crude state in the subsequent phases.

reactant | diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)C1=CC=CC=C1)C | C18H23NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 13.7 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | n-butyllithium | C(CCC)[Li]
reactant | cyclohexyl (phenylthio)acetate | 12 g | C1(=CC=CC=C1)SCC(=O)OC1CCCCC1 | C14H18O2S
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 cc | O1CCCC1 | C4H8O
product | 1-ethyl 6-cyclohexyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate | 9.7 g | CN(C(C(=S)OCC)=CC=C(C(=O)OC1CCCCC1)C1=CC=CC=C1)C | C22H29NO3S
